US07713969B2
3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-phenyl-1H-indol-3-yl)pyrrole-2,5-dione, prepared as in Example 32, was reduced with Mg in methanol as described in Example 2, Procedure C, to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-phenyl-1H-indol-3-yl)pyrrolidine-2,5-dione. 1H NMR (CD3OD) δ: 2.00-2.16 (m, 2H), 2.94(t, J=6.0 Hz, 2H), 3.92-3.99(m, 1H), 4.00-4.08(m, 1H), 4.36(d, J=6.4 Hz, 1H), 4.68(d, J=6.4 Hz 1H), 6.88-6.97(m, 2H), 7.04(s, 1H), 7.12-7.15(m, 1H), 7.17-7.47(m, 9H).

reactant | 3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-phenyl-1H-indol-3-yl)pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC=C(C=C23)C2=CC=CC=C2)=O)=O | C29H21N3O2
solvent | methanol | CO | CH4O
product | (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-phenyl-1H-indol-3-yl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CNC3=CC=C(C=C23)C2=CC=CC=C2)=O)=O | C29H23N3O2
